US07777047B2
N-methyl-N-{2-[5-methyl-5-(morpholinomethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}thiophene-2-sulfonamide
To a solution of triphenylphosphine oxide (1.00 g) in acetonitrile (20 ml) was slowly added trifluoromethanesulfonic anhydride (0.30 ml) at 0° C., and the mixture was stirred for 10 min. N-[2-(Benzylthio)-2-methyl-3-(morpholino)propyl]-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxamide (0.43 g) was added, and the reaction mixture was stirred at 0° C. for 30 min. Saturated aqueous sodium hydrogencarbonate was added, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4), and concentrated. The residue was subjected to silica gel column chromatography to give the title compound (0.20 g, yield 57%) as colorless crystals from a fraction eluted with ethyl acetate-hexane (2:1, volume ratio). melting point 146-147° C.

reactant | triphenylphosphine oxide | 1.00 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=O | C18H15OP
reactant | trifluoromethanesulfonic anhydride | 0.30 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | N-[2-(Benzylthio)-2-methyl-3-(morpholino)propyl]-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxamide | 0.43 g | C(C1=CC=CC=C1)SC(CNC(=O)C=1NC2=C(C=CC=C2C1)N(S(=O)(=O)C=1SC=CC1)C)(CN1CCOCC1)C | C29H34N4O4S3
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | N-methyl-N-{2-[5-methyl-5-(morpholinomethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}thiophene-2-sulfonamide | 0.20 g, yield 57% | CN(S(=O)(=O)C=1SC=CC1)C=1C=CC=C2C=C(NC12)C=1SC(CN1)(CN1CCOCC1)C | C22H26N4O3S3
